US06169107A
A solution of 0.068 g (0.18 mmol) of 7-[(3-tert-butoxycarbonylaminopropyl)amino]-1-methyl-2-indolecarboxylic acid and 0.088 g (0.54 mmol) of carbonyldiimidazole in 5 ml of tetrahydrofuran was stirred for 2 hours at room temperature and then at 45 to 50° C. for an hour. After the temperature was reverted to ambient temperature, a solution of 0.10 g (1.08 mmol) of guanidine hydrochloride and 0.16 ml (1.15 mmol) of triethylamine in 5 ml of dimethylformamide was added to the reaction mixture followed by stirring at room temperature for 7 hours. The solvent was then distilled off under reduced pressure. The resulting residue was isolated and purified by silica gel column chromatography to give 0.043 g (61.2%) of 7-[(3-tert-butoxycarbonylaminopropyl)amino]-1-methyl-2-indoloylguanidine.

reactant | 7-[(3-tert-butoxycarbonylaminopropyl)amino]-1-methyl-2-indolecarboxylic acid | 0.18 mmol, 0.068 g | C(C)(C)(C)OC(=O)NCCCNC=1C=CC=C2C=C(N(C12)C)C(=O)O | C18H25N3O4
reactant | carbonyldiimidazole | 0.54 mmol, 0.088 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | guanidine hydrochloride | 1.08 mmol, 0.10 g | Cl.NC(=N)N
reactant | triethylamine | 1.15 mmol, 0.16 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 7-[(3-tert-butoxycarbonylaminopropyl)amino]-1-methyl-2-indoloylguanidine | 0.043 g, 61.2% | C(C)(C)(C)OC(=O)NCCCNC=1C=CC=C2C=C(NC12)C(=O)N=C(NC)N | C19H28N6O3
